US07109227B2
A mixture of 4-chlorobenzaldehyde (2.0 g, 10.2 mmol), 20% hydrochloric acid (4 mL) was added to an aminoguanidine bicarbonate (1.39 g, 10.2 mmol) aqueous solution, and heated to reflux for 4 h. A solution of 40% aqueous potassium hydroxide (7 mL) was added dropwise, the mixture was heated at reflux for 10 min and the precipitate formed. The precipitate was filtered, washed with water, and recrystallized from ethanol to give 2-[(E)-1-(4-chlorophenyl)methylidene]-1-hydrazinecarboximidamide (1.77 g, 88%) as a yellow solid.

reactant | 4-chlorobenzaldehyde | 10.2 mmol, 2.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | hydrochloric acid | 4 mL | Cl | ClH
reactant | aminoguanidine bicarbonate | 10.2 mmol, 1.39 g | C(O)(O)=O.NNC(=N)N
reactant | potassium hydroxide | 7 mL | [OH-].[K+]
product | 2-[(E)-1-(4-chlorophenyl)methylidene]-1-hydrazinecarboximidamide | 1.77 g, 88% | ClC1=CC=C(C=C1)\C=N\NC(N)=N | C8H9ClN4
